US04778796
To a stirred solution of 10 g of 2-chloro-5-nitropyridine and 2 g of dry methanol in 40 ml of dry tetrahydrofuran, 2.8 g of sodium hydride (about 60%, in oil) is added under cooling in an ice-water bath. The mixture is stirred at room temperature for 1 hour, and 30 ml of water is added. The mixture is extracted with three 40-ml portions of ethyl acetate, and the combined extracts are dried over magnesium sulfate. The solvent is distilled off to give 8.0 g of crude 2-methoxy-5-nitropyridine.

reactant | 2-chloro-5-nitropyridine | 10 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | methanol | 2 g | CO | CH4O
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-methoxy-5-nitropyridine | 8.0 g | COC1=NC=C(C=C1)[N+](=O)[O-] | C6H6N2O3
